US04319913
The procedure of Example 1 was employed utilizing dibenzylamine and isopropyl phosphonic dichloride. The reaction of the dilithio compound and the isopropyl phosphonic dichloride was conducted at -65° C. The crude product produced as a result of the chromatographic separation was distilled at 160° C. and 0.2 mm to yield a colorless oil. The colorless oil was slurried in petroleum ether to yield 1-isopropyl-2-phenylmethyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (1.15 g, 12% yield) as a colorless solid having a melting point of 145°-147° C. and the following analysis:

reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | isopropyl phosphonic dichloride | C(C)(C)P(=O)(Cl)Cl | C3H7Cl2OP
product | 1-isopropyl-2-phenylmethyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 1.15 g, 12% yield | C(C)(C)P1(N(CC2=C1C=CC=C2)CC2=CC=CC=C2)=O | C17H20NOP
